data/oMe_Silver.jsonl
{"reaction_id": "NR-329_1-C_2-CC_3-C_4-c1ccc(OC)cc1","level": "medium","name": "Ramberg-Bäcklund Reaction","reactants_smiles": ["C([H])(C)(CC)S(=O)(=O)C(Cl)(C)c1ccc(OC)cc1"],"products_smiles": ["C(=C(C)c1ccc(OC)cc1)(C)CC"],"conditions": "Strong base (e.g., t-BuOK)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C)(CC)S(=O)(=O)C(Cl)(C)c1ccc(OC)cc1","step_weight": 0,"rationale": "t-BuOK deprotonates the acidic α-proton due to strong electron-withdrawing sulfone stabilization of the resulting carbanion via resonance and inductive effects."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C)(CC)S(=O)(=O)C1(C)c1ccc(OC)cc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks intramolecularly, displacing chloride, favored by good leaving group ability of Cl⁻ and proximity-driven cyclization."},{"step": 3,"type": "pericyclic","subtype": "cheletropic_reaction","intermediate_smiles": "C(=C(C)c1ccc(OC)cc1)(C)CC","step_weight": 0,"rationale": "The strained episulfone undergoes concerted SO₂ extrusion, driven by formation of a stable alkene and release of gaseous SO₂."}],"description": "Under strong base, the α-proton adjacent to the sulfone is abstracted to form a stabilized carbanion, which intramolecularly displaces chloride to form a strained episulfone. This intermediate undergoes a cheletropic elimination of SO₂, yielding the substituted alkene product."}
{"reaction_id": "NR-239_1-C1CCCCC1_2-OC_3-C#N_4-c1ccccc1","level": "medium","name": "Stetter Reaction","reactants_smiles": ["C1CCCCC1C(=O)[H]","C(C#N)=C(c1ccccc1)C(=O)OC","[C-]#N"],"products_smiles": ["OCC(=O)C(c1ccccc1)C(C#N)C(=O)C1CCCCC1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C(O)(C#N)C(C#N)C(c1ccccc1)=C([O-])OC","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])(C#N)C(C#N)C(c1ccccc1)C(=O)OC","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OCC(=O)C(c1ccccc1)C(C#N)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
